US09388185B2
Step 1. 1-(4-Bromophenyl)-4-methylpiperazin-2-one
Sodium triacetoxyborohydride (0.25 g, 1.2 mmol) was added to a solution of 1-(4-bromophenyl)piperazin-2-one (200.0 mg, 0.7840 mmol, from J&W PharmLab product) and 11.0 M formaldehyde in water (0.21 mL, 2.4 mmol) in methylene chloride (3 mL, 50 mmol) and then the reaction was stirred at rt for 1 hour. The mixture was diluted with methylene chloride, washed with saturated NaHCO3, water, brine, then dried over Na2SO4, filtered and concentrated to provide the product which was used in the next step. LCMS calculated for C11H14BrN2O (M+H)+: m/z=269.0. Found 269.0.

reactant | Sodium triacetoxyborohydride | 1.2 mmol, 0.25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-(4-bromophenyl)piperazin-2-one | 0.7840 mmol, 200.0 mg | BrC1=CC=C(C=C1)N1C(CNCC1)=O | C10H11BrN2O
reactant | formaldehyde | 11.0 M | C=O | CH2O
reactant | water | 2.4 mmol, 0.21 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mmol, 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Bromophenyl)-4-methylpiperazin-2-one | BrC1=CC=C(C=C1)N1C(CN(CC1)C)=O | C11H13BrN2O
